US08486952B2
2,4-dichloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine (Preparation H) (100 mg, 0.353 mmol) and N,N-dimethylpyrrolidin-3-amine (44.3 μL, 0.353 mmol) were combined and purified as per Preparation Hb to give 1-(2-chloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-N,N-dimethylpyrrolidin-3-amine (109 mg, 86% yield). LC-MS (M+H)+=361.2.

reactant | 2,4-dichloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 0.353 mmol, 100 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)Cl | C13H9Cl2FN2
reactant | N,N-dimethylpyrrolidin-3-amine | 0.353 mmol, 44.3 μL | CN(C1CNCC1)C | C6H14N2
product | 1-(2-chloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-N,N-dimethylpyrrolidin-3-amine | 109 mg, 86% yield | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)N2CC(CC2)N(C)C | C19H22ClFN4
